US09334290B2
A mixture of sodium 2-(3-chloropyridin-2-yl)acetate (7.39 g, 38 mmol), 3-bromo-2-methylaniline (4.7 mL, 38.4 mmol), DIEA (13.3 mL, 76 mmol) and HATU (14.6 g, 38.4 mmol) in DMF (127 mL) was stirred at room temperature. After 90 min the mixture was diluted with EtOAc and washed twice with 10% LiCl, then with brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated to a small volume. The solution was seeded with a crystal from an earlier batch and allowed to stand overnight to provide a precipitate which was collected by filtration and washed with 50% EtOAc-hexanes to provide a white solid. The filtrate was concentrated and recrystallized similarly three times to provide additional solid. The solids were combined to give N-(3-bromo-2-methylphenyl)-2-(3-chloropyridin-2-yl)acetamide as a white solid (11.43 g, 89% yield). Mass spectrum m/z 339, 341 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 9.76 (br. s., 1H), 8.52 (d, J=3.5 Hz, 1H), 7.92 (d, J=7.9 Hz, 1H), 7.80 (dd, J=8.1, 1.1 Hz, 1H), 7.36 (d, J=7.9 Hz, 1H), 7.32-7.23 (m, 1H), 7.06 (t, J=8.0 Hz, 1H), 4.16 (s, 2H), 2.39 (s, 3H).

reactant | sodium 2-(3-chloropyridin-2-yl)acetate | 38 mmol, 7.39 g | ClC=1C(=NC=CC1)CC(=O)[O-].[Na+]
reactant | 3-bromo-2-methylaniline | 38.4 mmol, 4.7 mL | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | DIEA | 76 mmol, 13.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 38.4 mmol, 14.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 127 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-bromo-2-methylphenyl)-2-(3-chloropyridin-2-yl)acetamide | 11.43 g, 89% yield | BrC=1C(=C(C=CC1)NC(CC1=NC=CC=C1Cl)=O)C | C14H12BrClN2O
